US04465768
5 g of 2,6-diiodo-4-nitroaniline was dissolved in 20 ml of conc. sulfuric acid and cooled with ice. Sodium nitrite previously vacuum-dried was added to the solution in portions to effect the diazotization reaction at 0°-5° C. The reaction product was added dropwise to ice-water to dilute the sulfuric acid. A solution of 1.4 g of sodium azide in 10 cc of water was added dropwise to the mixture, stirred for about one hour, filtered and washed with water. After the recrystallization from ethanol followed by drying, 2,6-diiodo-4-nitroazidobenzene was obtained.

reactant | 2,6-diiodo-4-nitroaniline | 5 g | IC1=C(N)C(=CC(=C1)[N+](=O)[O-])I | C6H4I2N2O2
reactant | sodium azide | 1.4 g | [N-]=[N+]=[N-].[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 cc | O | H2O
product | 2,6-diiodo-4-nitroazidobenzene | IC1=C(C(=CC(=C1)[N+](=O)[O-])I)N=[N+]=[N-] | C6H2I2N4O2
